### PR TITLE
[Merged by Bors] - feat: if `p = a * b` is irreducible, then `a = 1` or `b = 1`

### PR DESCRIPTION
**Pull request by YaelDillies**
From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Irreducible/Defs.lean [hunk 1]
```diff
@@ -62,11 +62,16 @@ lemma not_irreducible_one : ¬Irreducible (1 : M) := by simp [irreducible_iff]
...
-lemma of_irreducible_mul : Irreducible (x * y) → IsUnit x ∨ IsUnit y | ⟨_, h⟩ => h rfl
+lemma of_irreducible_mul : Irreducible (a * b) → IsUnit a ∨ IsUnit b | ⟨_, h⟩ => h rfl
 
 @[to_additive]
 lemma irreducible_or_factor (hp : ¬IsUnit p) :
     Irreducible p ∨ ∃ a b, ¬IsUnit a ∧ ¬IsUnit b ∧ p = a * b := by
   simpa [irreducible_iff, hp, and_rotate] using em (∀ a b, p = a * b → IsUnit a ∨ IsUnit b)
 
+@[to_additive]
+lemma Irreducible.eq_one_or_eq_one [Subsingleton Mˣ] (hp : Irreducible p) (hab : p = a * b) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Irreducible/Defs.lean:73]: I'd usually expect the `p` to be substituted out. Any reason not to?

(I'm also reminded of `Nat.not_prime_mul {a b : ℕ} (a1 : a ≠ 1) (b1 : b ≠ 1) : ¬Prime (a * b)`)

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Irreducible/Defs.lean:73]: My case is [here](https://github.com/YaelDillies/Toric/blob/df238dd9c0854949a0303e33170815204aa74fcc/Toric/AffineMonoid/Irreducible.lean#L28) and the proof I provide for `hab` is `rfl`. Still, I believe that it might not be practical to substitute `p` out in all cases, eg because we want to provide the proof on the fly or because `p` isn't a free variable.

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Irreducible/Defs.lean:73]: Actually, this matches `Irreducible.isUnit_or_isUnit`

Comment (b-mehta) [reply Mathlib/Algebra/Group/Irreducible/Defs.lean]: I agree with Ruben, please substitute out `p` here.

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Irreducible/Defs.lean]: Probably will get changed back eventually, but okay

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
